US08314098B2
(Step 2): 5-Chloro-2-furan-2-yl-7-morpholin-4-yl-pyrazolo[1,5-a]pyrimidine
There was dissolved, in 1,4-dioxane (4 mL), 5,7-dichloro-2-furan-2-yl-pyrazolo[1,5-a]pyrimidine (167 mg, 0.657 mM), then morpholine (115 μL, 1.31 mM) was added to the solution and the mixture was stirred at room temperature for one hour. The solvent was distilled off from this reaction mixture, the resulting residue was diluted with water and then extracted with methylene chloride. The extract thus obtained were combined, dried over anhydrous sodium sulfate, the solvent was distilled off and the resulting solid was washed with methanol to thus give the title compound (186 mg, yield: 93%).

reactant | 5,7-dichloro-2-furan-2-yl-pyrazolo[1,5-a]pyrimidine | 0.657 mM, 167 mg | ClC1=NC=2N(C(=C1)Cl)N=C(C2)C=2OC=CC2 | C10H5Cl2N3O
reactant | morpholine | 1.31 mM, 115 μL | N1CCOCC1 | C4H9NO
solvent | 1,4-dioxane | 4 mL | O1CCOCC1 | C4H8O2
product | 5-Chloro-2-furan-2-yl-7-morpholin-4-yl-pyrazolo[1,5-a]pyrimidine | 186 mg, yield: 93% | ClC1=NC=2N(C(=C1)N1CCOCC1)N=C(C2)C=2OC=CC2 | C14H13ClN4O2
